US08030499B2
Step 149-1: Synthesis of tert-butyl (2S,4R)-4-(allyloxy)-2-[(dimethylamino)carbonyl]pyrrolidine-1-carboxylate
To a solution of 9.6 g of tert-butyl (2S,4R)-2-[(dimethylamino)carbonyl]-4-hydroxypyrrolidine-1-carboxylate in THF (100 ml) was added 937 mg of NaH and the reaction mixture was stirred at 60° C. for one hour. After returning to room temperature, 12.5 g of allyl iodide was added to the reaction solution, and the reaction mixture was refluxed for one hour. To the reaction solution was added water and the resulting mixture was extracted with EtOAc, then was washed with saturated brine. The organic layer was dried over Na2SO4, then the drying agent was separated by filtration and the solvent was evaporated under reduced pressure. The obtained residue was purified by column chromatography (silicagel 60; mobile phase: CHCl3/MeOH=18/1 to 9/1; v/v) to obtain 6.70 g of the title compound (light brown oil).

reactant | tert-butyl (2S,4R)-2-[(dimethylamino)carbonyl]-4-hydroxypyrrolidine-1-carboxylate | 9.6 g | CN(C(=O)[C@H]1N(C[C@@H](C1)O)C(=O)OC(C)(C)C)C | C12H22N2O4
reactant | NaH | 937 mg | [H-].[Na+]
reactant | allyl iodide | 12.5 g | C(C=C)I | C3H5I
reactant | water | O | H2O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | tert-butyl (2S,4R)-4-(allyloxy)-2-[(dimethylamino)carbonyl]pyrrolidine-1-carboxylate | 6.70 g | C(C=C)O[C@@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)N(C)C | C15H26N2O4
